US06713474B2
c) trans-7-[4-(4-Methylpiperazino)cyclohexyl]-5-(3-nitro-4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine Acetate
The title compound was prepared from trans-4-chloro-5-iodo-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidine and 2-nitro-4-(4,4,5,5-tetrametyl-1,3,2-dioxaborolan-2-yl)phenyl phenyl ether in a similar manner to that described for the preparation of trans-5-(4-chloro-7-(4-(4-methylpiperazino)cyclohexyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-phenoxybenzonitrile: 1H NMR (DMSO-d6, 400 MHz) δ 8.15(s, 1H), 8.08(d, 1H), 7.74 (d, 1H), 7.46(s, 1H), 7.42(t, 2H), 7.23(m, 2H), 7.12(d, 2H), 6.36(bs, 2H), 4.56(m, 1H), 2.2-2.6(m, 9H), 2.16(s, 3H), 1.8-2.0(m, 6H), 1.92(s, 3H), 1.45 (m, 2H); MS MH+528.4; RP-HPLC (Hypersil HS, 5 μm, 100 A 4.6×250 mm; 5%-100% acetonitrile—0.05 M ammonium acetate over 25 min, 1 ml/min) tr 14.88 min.

reactant | trans-4-chloro-5-iodo-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)N(C=C2I)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C17H23ClIN5
reactant | 2-nitro-4-(4,4,5,5-tetrametyl-1,3,2-dioxaborolan-2-yl)phenyl phenyl ether | C1(=CC=CC=C1)OC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)[N+](=O)[O-] | C18H20BNO5
reactant | trans-5-(4-chloro-7-(4-(4-methylpiperazino)cyclohexyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-phenoxybenzonitrile | ClC=1C2=C(N=CN1)N(C=C2C=2C=CC(=C(C#N)C2)OC2=CC=CC=C2)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C30H31ClN6O
reactant | Hypersil | CO[C@H]1[C@@H](C[C@@H]2CN3CCC4=C([C@H]3C[C@@H]2[C@@H]1C(=O)OC)NC5=C4C=CC(=C5)OC)OC(=O)C6=CC(=C(C(=C6)OC)OC)OC | C33H40N2O9
solvent | acetonitrile | 0.05 M | C(C)#N | C2H3N
product | trans-7-[4-(4-Methylpiperazino)cyclohexyl]-5-(3-nitro-4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine Acetate | C(C)(=O)O.CN1CCN(CC1)[C@@H]1CC[C@H](CC1)N1C=C(C2=C1N=CN=C2N)C2=CC(=C(C=C2)OC2=CC=CC=C2)[N+](=O)[O-] | InChI=1S/C29H33N7O3.C2H4O2/c1-33-13-15-34(16-14-33)21-8-10-22(11-9-21)35-18-24(27-28(30)31-19-32-29(27)35)20-7-12-26(25(17-20)36(37)38)39-23-5-3-2-4-6-23;1-2(3)4/h2-7,12,17-19,21-22H,8-11,13-16H2,1H3,(H2,30,31,32);1H3,(H,3,4)/t21-,22-;
